US07956183B2
3,7-Dinitro-10-acetyl-phenothiazine
A solution of 3,7-dinitrophenothiazine (MW 289.27, 24.0 g, 82.96 mmol), acetic anhydride (MW 102.09, 151 g, 1.48 mol) and pyridine (100 cm3) was stirred at reflux for 18 hours. The warm solution was then cooled to room temperature and poured carefully over ice water. The precipitate formed was filtered to give the title compound (MW 331.26, 21.14 g, 63.81 mmol, 77%) as a sand coloured solid which was recrystallised from acetone to give light yellow needles.

reactant | 3,7-dinitrophenothiazine | 82.96 mmol, 24.0 g | [N+](=O)([O-])C=1C=CC=2NC3=CC=C(C=C3SC2C1)[N+](=O)[O-] | C12H7N3O4S
reactant | acetic anhydride | 1.48 mol, 151 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 100 cm3 | N1=CC=CC=C1 | C5H5N
product | 3,7-Dinitro-10-acetyl-phenothiazine | 63.81 mmol, 21.14 g, 77% | [N+](=O)([O-])C=1C=CC=2N(C3=CC=C(C=C3SC2C1)[N+](=O)[O-])C(C)=O | C14H9N3O5S
